US09212182B2
A RBF charged with xantphos (9.97 g, 17.23 mmol), pd2(dba)3 (5.26 g, 5.74 mmol), 4-bromo-1-iodo-2-methoxybenzene (74.9 g, 239 mmol), (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (60.000 g, 191 mmol), cesium carbonate (100 g, 306 mmol), and 400 ml cylopentyl-methylether was heated to 90° C. overnight. The reaction mixture was then poured into water and extracted with DCM. The organics were dried over MgSO4 and concentrated. The crude residue was triturated with IPA leaving a yellow solid that was collected and dried yielding (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-2-methoxyphenyl)amino)phenyl)acrylate (86.95 g, 174 mmol, 91% yield). m/z (ESI) 500.1 (M+H)+.

reactant | 4-bromo-1-iodo-2-methoxybenzene | 239 mmol, 74.9 g | BrC1=CC(=C(C=C1)I)OC | C7H6BrIO
reactant | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 191 mmol, 60.000 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | cesium carbonate | 306 mmol, 100 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cylopentyl-methylether | 400 ml | C1(CCCC1)OC | C6H12O
catalyst | pd2(dba)3 | 5.74 mmol, 5.26 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 17.23 mmol, 9.97 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | water | O | H2O
product | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-2-methoxyphenyl)amino)phenyl)acrylate | 174 mmol, 86.95 g, 91% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C=C1)Br)OC | C25H24BrNO3S
